US07612114B2
2-{2-[3-Fluoro-4-(2-piperidin-1-ylethoxy)benzylamino]-4-hydroxyphenyl}-1-methyl-1H-indol-6-ol
Synthesized from 5-methoxy-2-(6-methoxy-1-methyl-1H-indol-2-yl)phenylamine (500 mg) and 3-fluoro-4-(2-piperidin-1-ylethoxy)benzoic acid hydrochloride (920 mg) according to an analogous synthetic method to Example 114, [3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl][5-methoxy-2-(6-methoxy-1-methyl-1H-indol-2-yl)phenyl]amine (210 mg) was used according to an analogous synthetic method to Example 364 described below to provide the title compound (40 mg).

reactant | 5-methoxy-2-(6-methoxy-1-methyl-1H-indol-2-yl)phenylamine | 500 mg | COC=1C=CC(=C(C1)N)C=1N(C2=CC(=CC=C2C1)OC)C | C17H18N2O2
reactant | 3-fluoro-4-(2-piperidin-1-ylethoxy)benzoic acid hydrochloride | 920 mg | Cl.FC=1C=C(C(=O)O)C=CC1OCCN1CCCCC1
reactant | [3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl][5-methoxy-2-(6-methoxy-1-methyl-1H-indol-2-yl)phenyl]amine | 210 mg | FC=1C=C(CNC2=C(C=CC(=C2)OC)C=2N(C3=CC(=CC=C3C2)OC)C)C=CC1OCCN1CCCCC1 | C31H36FN3O3
product | 2-{2-[3-Fluoro-4-(2-piperidin-1-ylethoxy)benzylamino]-4-hydroxyphenyl}-1-methyl-1H-indol-6-ol | 40 mg | FC=1C=C(CNC2=C(C=CC(=C2)O)C=2N(C3=CC(=CC=C3C2)O)C)C=CC1OCCN1CCCCC1 | C29H32FN3O3
